US07423159B2
To a mixture of (1,5-diphenyl-1H-pyrazol-4-yl)methanol (11.78 g), triethylamine (10 ml) and ethyl acetate (300 ml) was added dropwise methanesulfonyl chloride (4.5 ml) at 0° C. The mixture was stirred at room temperature for 1 hr. and the ethyl acetate layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give an oil. This oil was dissolved in N,N-dimethylformamide (100 ml) and the resulting solution was added dropwise to a solution of sodium diethyl malonate in N,N-dimethylformamide (prepared using diethyl malonate 20.33 g, sodium hydride (60% in oil, 4.88 g) and N,N-dimethylformamide 200 ml) at 0° C. The mixture was stirred at room temperature for 5 hrs., and poured into a 1N aqueous hydrochloric acid solution. The mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with a 1N aqueous hydrochloric acid solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give an oil. A mixture of this oil, a 6N aqueous hydrochloric acid solution (100 ml) and acetic acid (50 ml) was heated under reflux for 5 hrs. The reaction mixture was cooled, concentrated and poured into water. The precipitated crystals were collected by filtration, washed with water, and dried to give 3-(1,5-diphenyl-1H-pyrazol-4-yl)propionic acid. yield: 68%. colorless needle crystals. melting point: 159-160° C. (recrystallized from acetone-hexane).

reactant | (1,5-diphenyl-1H-pyrazol-4-yl)methanol | 11.78 g | C1(=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)CO | C16H14N2O
reactant | methanesulfonyl chloride | 4.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium diethyl malonate | C(CC(=O)OCC)(=O)OCC.[Na]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | hydrochloric acid | 6N, 100 ml | Cl | ClH
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 200 ml, 20.33 g | CN(C=O)C | C3H7NO
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 3-(1,5-diphenyl-1H-pyrazol-4-yl)propionic acid | yield: 68% | C1(=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)CCC(=O)O | C18H16N2O2
